.title kicad schematic

* u23 wo2 plot_v1
* u26 wo1 plot_v1
* u41 west_out_valid plot_v1
* u8 net-_u8-pad1_ net-_u8-pad2_ net-_u8-pad3_ net-_u8-pad4_ north_out_valid south_out_valid east_out_valid west_out_valid dac_bridge_4
* u19 wo4 plot_v1
* u22 wo3 plot_v1
* u24 no4 plot_v1
* u20 no5 plot_v1
* u40 so7 plot_v1
* u38 no0 plot_v1
* u17 no6 plot_v1
* u30 no2 plot_v1
* u27 no3 plot_v1
* u33 no1 plot_v1
* u32 north_out_valid plot_v1
* u34 south_out_valid plot_v1
* u29 wo0 plot_v1
* u37 east_out_valid plot_v1
* u1 clk rst nd7 nd6 nd5 nd4 nd3 nd2 net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ adc_bridge_8
* u6 west_dest1 west_dest0 north_valid south_valid east_valid west_valid net-_u6-pad7_ net-_u6-pad8_ net-_u6-pad9_ net-_u6-pad10_ net-_u6-pad11_ net-_u6-pad12_ adc_bridge_6
* u5 wd1 wd0 north_dest1 north_dest0 south_dest1 south_dest0 east_dest1 east_dest0 net-_u5-pad9_ net-_u5-pad10_ net-_u5-pad11_ net-_u5-pad12_ net-_u5-pad13_ net-_u5-pad14_ net-_u5-pad15_ net-_u5-pad16_ adc_bridge_8
* u4 ed1 ed0 wd7 wd6 wd5 wd4 wd3 wd2 net-_u4-pad9_ net-_u4-pad10_ net-_u4-pad11_ net-_u4-pad12_ net-_u4-pad13_ net-_u4-pad14_ net-_u4-pad15_ net-_u4-pad16_ adc_bridge_8
* u25 eo7 plot_v1
* u28 eo6 plot_v1
* u31 eo5 plot_v1
* u21 so0 plot_v1
* u18 so1 plot_v1
* u15 so2 plot_v1
* u46 so4 plot_v1
* u44 so5 plot_v1
* u42 so6 plot_v1
* u48 so3 plot_v1
* u11 net-_u11-pad1_ net-_u11-pad2_ net-_u11-pad3_ net-_u11-pad4_ net-_u11-pad5_ net-_u11-pad6_ net-_u11-pad7_ net-_u11-pad8_ eo7 eo6 eo5 eo4 eo3 eo2 eo1 eo0 dac_bridge_8
* u10 net-_u10-pad1_ net-_u10-pad2_ net-_u10-pad3_ net-_u10-pad4_ net-_u10-pad5_ net-_u10-pad6_ net-_u10-pad7_ net-_u10-pad8_ so7 so6 so5 so4 so3 so2 so1 so0 dac_bridge_8
* u12 net-_u12-pad1_ net-_u12-pad2_ net-_u12-pad3_ net-_u12-pad4_ net-_u12-pad5_ net-_u12-pad6_ net-_u12-pad7_ net-_u12-pad8_ wo7 wo6 wo5 wo4 wo3 wo2 wo1 wo0 dac_bridge_8
* u14 no7 plot_v1
* u9 net-_u9-pad1_ net-_u9-pad2_ net-_u9-pad3_ net-_u9-pad4_ net-_u9-pad5_ net-_u9-pad6_ net-_u9-pad7_ net-_u9-pad8_ no7 no6 no5 no4 no3 no2 no1 no0 dac_bridge_8
* u7 net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u2-pad9_ net-_u2-pad10_ net-_u2-pad11_ net-_u2-pad12_ net-_u2-pad13_ net-_u2-pad14_ net-_u2-pad15_ net-_u2-pad16_ net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ net-_u3-pad12_ net-_u3-pad13_ net-_u3-pad14_ net-_u3-pad15_ net-_u3-pad16_ net-_u4-pad9_ net-_u4-pad10_ net-_u4-pad11_ net-_u4-pad12_ net-_u4-pad13_ net-_u4-pad14_ net-_u4-pad15_ net-_u4-pad16_ net-_u5-pad9_ net-_u5-pad10_ net-_u5-pad11_ net-_u5-pad12_ net-_u5-pad13_ net-_u5-pad14_ net-_u5-pad15_ net-_u5-pad16_ net-_u6-pad7_ net-_u6-pad8_ net-_u6-pad9_ net-_u6-pad10_ net-_u6-pad11_ net-_u6-pad12_ net-_u9-pad1_ net-_u9-pad2_ net-_u9-pad3_ net-_u9-pad4_ net-_u9-pad5_ net-_u9-pad6_ net-_u9-pad7_ net-_u9-pad8_ net-_u10-pad1_ net-_u10-pad2_ net-_u10-pad3_ net-_u10-pad4_ net-_u10-pad5_ net-_u10-pad6_ net-_u10-pad7_ net-_u10-pad8_ net-_u11-pad1_ net-_u11-pad2_ net-_u11-pad3_ net-_u11-pad4_ net-_u11-pad5_ net-_u11-pad6_ net-_u11-pad7_ net-_u11-pad8_ net-_u12-pad1_ net-_u12-pad2_ net-_u12-pad3_ net-_u12-pad4_ net-_u12-pad5_ net-_u12-pad6_ net-_u12-pad7_ net-_u12-pad8_ net-_u8-pad1_ net-_u8-pad2_ net-_u8-pad3_ net-_u8-pad4_ noc_router_4x4
* u13 wo6 plot_v1
* u16 wo5 plot_v1
* u36 eo3 plot_v1
* u39 eo2 plot_v1
* u35 eo4 plot_v1
* u43 eo1 plot_v1
* u45 eo0 plot_v1
* u47 wo7 plot_v1
v4 nd1 gnd  dc 0
v5 nd2 gnd  dc 3.3
v3 nd0 gnd  dc 3.3
v6 nd3 gnd  dc 0
v10 nd7 gnd  dc 0
v8 nd5 gnd  dc 0
v7 nd4 gnd  dc 3.3
v9 nd6 gnd  dc 3.3
v34 sd7 gnd  dc 0
v33 sd6 gnd  dc 0
v2 rst gnd pulse(3.3 0 20n 1n 1n 1000n 2000n)
v1 clk gnd pulse(0 3.3 0 1n 1n 5n 10n)
* u3 sd1 sd0 ed7 ed6 ed5 ed4 ed3 ed2 net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ net-_u3-pad12_ net-_u3-pad13_ net-_u3-pad14_ net-_u3-pad15_ net-_u3-pad16_ adc_bridge_8
* u2 nd1 nd0 sd7 sd6 sd5 sd4 sd3 sd2 net-_u2-pad9_ net-_u2-pad10_ net-_u2-pad11_ net-_u2-pad12_ net-_u2-pad13_ net-_u2-pad14_ net-_u2-pad15_ net-_u2-pad16_ adc_bridge_8
v22 ed7 gnd  dc 0
v17 ed4 gnd  dc 0
v19 ed6 gnd  dc 0
v18 ed5 gnd  dc 0
v27 sd0 gnd  dc 0
v32 sd5 gnd  dc 0
v31 sd4 gnd  dc 0
v29 sd2 gnd  dc 0
v30 sd3 gnd  dc 0
v28 sd1 gnd  dc 0
v46 north_dest1 gnd  dc 3.3
v45 north_dest0 gnd  dc 0
v20 wd2 gnd  dc 0
v21 wd3 gnd  dc 0
v16 ed3 gnd  dc 0
v15 ed2 gnd  dc 0
v14 ed1 gnd  dc 0
v12 ed0 gnd  dc 0
v23 wd4 gnd  dc 0
v25 wd6 gnd  dc 0
v26 wd7 gnd  dc 0
v24 wd5 gnd  dc 0
v11 wd0 gnd  dc 0
v13 wd1 gnd  dc 0
v43 south_dest0 gnd  dc 0
v44 south_dest1 gnd  dc 0
v37 east_valid gnd  dc 0
v38 south_valid gnd  dc 0
v36 west_valid gnd  dc 0
v35 north_valid gnd pulse(0 3.3 40n 1n 1n 20n 200n)
v42 east_dest1 gnd  dc 0
v41 east_dest0 gnd  dc 0
v40 west_dest1 gnd  dc 0
v39 west_dest0 gnd  dc 0
a1 [net-_u8-pad1_ net-_u8-pad2_ net-_u8-pad3_ net-_u8-pad4_ ] [north_out_valid south_out_valid east_out_valid west_out_valid ] u8
a2 [clk rst nd7 nd6 nd5 nd4 nd3 nd2 ] [net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ ] u1
a3 [west_dest1 west_dest0 north_valid south_valid east_valid west_valid ] [net-_u6-pad7_ net-_u6-pad8_ net-_u6-pad9_ net-_u6-pad10_ net-_u6-pad11_ net-_u6-pad12_ ] u6
a4 [wd1 wd0 north_dest1 north_dest0 south_dest1 south_dest0 east_dest1 east_dest0 ] [net-_u5-pad9_ net-_u5-pad10_ net-_u5-pad11_ net-_u5-pad12_ net-_u5-pad13_ net-_u5-pad14_ net-_u5-pad15_ net-_u5-pad16_ ] u5
a5 [ed1 ed0 wd7 wd6 wd5 wd4 wd3 wd2 ] [net-_u4-pad9_ net-_u4-pad10_ net-_u4-pad11_ net-_u4-pad12_ net-_u4-pad13_ net-_u4-pad14_ net-_u4-pad15_ net-_u4-pad16_ ] u4
a6 [net-_u11-pad1_ net-_u11-pad2_ net-_u11-pad3_ net-_u11-pad4_ net-_u11-pad5_ net-_u11-pad6_ net-_u11-pad7_ net-_u11-pad8_ ] [eo7 eo6 eo5 eo4 eo3 eo2 eo1 eo0 ] u11
a7 [net-_u10-pad1_ net-_u10-pad2_ net-_u10-pad3_ net-_u10-pad4_ net-_u10-pad5_ net-_u10-pad6_ net-_u10-pad7_ net-_u10-pad8_ ] [so7 so6 so5 so4 so3 so2 so1 so0 ] u10
a8 [net-_u12-pad1_ net-_u12-pad2_ net-_u12-pad3_ net-_u12-pad4_ net-_u12-pad5_ net-_u12-pad6_ net-_u12-pad7_ net-_u12-pad8_ ] [wo7 wo6 wo5 wo4 wo3 wo2 wo1 wo0 ] u12
a9 [net-_u9-pad1_ net-_u9-pad2_ net-_u9-pad3_ net-_u9-pad4_ net-_u9-pad5_ net-_u9-pad6_ net-_u9-pad7_ net-_u9-pad8_ ] [no7 no6 no5 no4 no3 no2 no1 no0 ] u9
a10 [net-_u1-pad9_ ] [net-_u1-pad10_ ] [net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u2-pad9_ net-_u2-pad10_ ] [net-_u2-pad11_ net-_u2-pad12_ net-_u2-pad13_ net-_u2-pad14_ net-_u2-pad15_ net-_u2-pad16_ net-_u3-pad9_ net-_u3-pad10_ ] [net-_u3-pad11_ net-_u3-pad12_ net-_u3-pad13_ net-_u3-pad14_ net-_u3-pad15_ net-_u3-pad16_ net-_u4-pad9_ net-_u4-pad10_ ] [net-_u4-pad11_ net-_u4-pad12_ net-_u4-pad13_ net-_u4-pad14_ net-_u4-pad15_ net-_u4-pad16_ net-_u5-pad9_ net-_u5-pad10_ ] [net-_u5-pad11_ net-_u5-pad12_ ] [net-_u5-pad13_ net-_u5-pad14_ ] [net-_u5-pad15_ net-_u5-pad16_ ] [net-_u6-pad7_ net-_u6-pad8_ ] [net-_u6-pad9_ ] [net-_u6-pad10_ ] [net-_u6-pad11_ ] [net-_u6-pad12_ ] [net-_u9-pad1_ net-_u9-pad2_ net-_u9-pad3_ net-_u9-pad4_ net-_u9-pad5_ net-_u9-pad6_ net-_u9-pad7_ net-_u9-pad8_ ] [net-_u10-pad1_ net-_u10-pad2_ net-_u10-pad3_ net-_u10-pad4_ net-_u10-pad5_ net-_u10-pad6_ net-_u10-pad7_ net-_u10-pad8_ ] [net-_u11-pad1_ net-_u11-pad2_ net-_u11-pad3_ net-_u11-pad4_ net-_u11-pad5_ net-_u11-pad6_ net-_u11-pad7_ net-_u11-pad8_ ] [net-_u12-pad1_ net-_u12-pad2_ net-_u12-pad3_ net-_u12-pad4_ net-_u12-pad5_ net-_u12-pad6_ net-_u12-pad7_ net-_u12-pad8_ ] [net-_u8-pad1_ ] [net-_u8-pad2_ ] [net-_u8-pad3_ ] [net-_u8-pad4_ ] u7
a11 [sd1 sd0 ed7 ed6 ed5 ed4 ed3 ed2 ] [net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ net-_u3-pad12_ net-_u3-pad13_ net-_u3-pad14_ net-_u3-pad15_ net-_u3-pad16_ ] u3
a12 [nd1 nd0 sd7 sd6 sd5 sd4 sd3 sd2 ] [net-_u2-pad9_ net-_u2-pad10_ net-_u2-pad11_ net-_u2-pad12_ net-_u2-pad13_ net-_u2-pad14_ net-_u2-pad15_ net-_u2-pad16_ ] u2
* Schematic Name:                             dac_bridge_4, Ngspice Name: dac_bridge
.model u8 dac_bridge(out_low=0 out_high=3.3 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_8, Ngspice Name: adc_bridge
.model u1 adc_bridge(in_low=0.5 in_high=3.3 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_6, Ngspice Name: adc_bridge
.model u6 adc_bridge(in_low=0.5 in_high=3.3 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_8, Ngspice Name: adc_bridge
.model u5 adc_bridge(in_low=0.5 in_high=3.3 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_8, Ngspice Name: adc_bridge
.model u4 adc_bridge(in_low=0.5 in_high=3.3 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, Ngspice Name: dac_bridge
.model u11 dac_bridge(out_low=0 out_high=3.3 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, Ngspice Name: dac_bridge
.model u10 dac_bridge(out_low=0 out_high=3.3 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, Ngspice Name: dac_bridge
.model u12 dac_bridge(out_low=0 out_high=3.3 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, Ngspice Name: dac_bridge
.model u9 dac_bridge(out_low=0 out_high=3.3 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             noc_router_4x4, Ngspice Name: noc_router_4x4
.model u7 noc_router_4x4(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_8, Ngspice Name: adc_bridge
.model u3 adc_bridge(in_low=0.5 in_high=3.3 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_8, Ngspice Name: adc_bridge
.model u2 adc_bridge(in_low=0.5 in_high=3.3 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 1e-09 200e-09 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(wo2)
plot v(wo1)
plot v(west_out_valid)
plot v(wo4)
plot v(wo3)
plot v(no4)
plot v(no5)
plot v(so7)
plot v(no0)
plot v(no6)
plot v(no2)
plot v(no3)
plot v(no1)
plot v(north_out_valid)
plot v(south_out_valid)
plot v(wo0)
plot v(east_out_valid)
plot v(eo7)
plot v(eo6)
plot v(eo5)
plot v(so0)
plot v(so1)
plot v(so2)
plot v(so4)
plot v(so5)
plot v(so6)
plot v(so3)
plot v(no7)
plot v(wo6)
plot v(wo5)
plot v(eo3)
plot v(eo2)
plot v(eo4)
plot v(eo1)
plot v(eo0)
plot v(wo7)
.endc
.end
