* /home/hemanth/esim-workspace/portablemoscr61/portablemoscr61.cir
.include Active_Rectifier.sub


.subckt portablemoscr61 V_ac Vg1 Vg2 gnd net-_m1-pad1_ 5V_DC vout

xm1  net-_m1-pad1_ net-_m1-pad1_ 5V_DC vout sky130_fd_pr__nfet_01v8 w=0.42 l=0.5
* u1  v_dc 5v_dc port
x1 V_ac Vg1 Vg2 gnd net-_m1-pad1_ Active_Rectifier
.ends portablemoscr61
